US07414049B2
b) (S)-5-(2-Benzyloxy-ethyl)-3-tert-butoxycarbonylamino-4-oxo-2,3,4,5-tetrahydro-benzo[b][1,4]diazepine-1-carboxylic acid 2,2,2-trifluoro-ethyl ester
A solution of 301 mg of [(RS)-1-(2-benzyloxy-ethyl)-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl]-carbamic acid tert-butyl ester in 6 ml of N,N-dimethylformamide was treated with 477 mg of cesium carbonate, 350 mg of 2,2,2-trifluoroethyl trifluoromethanesulphonate, and about 300 mg of solid carbondioxide. The reaction mixture was stirred in a sealed tube at 60° C. for 18 hours. For the working-up, the solvent was evaporated under reduced pressure, and the residue was distributed between 10 ml of a saturated sodium hydrogencarbonate solution and 30 ml of ethyl acetate. The aqueous layer was separated and extracted twice with 30 ml of ethyl acetate. The combined organic layers were dried over sodium sulphate and evaporated under reduced pressure. For purification, the light brown oil was separated on silica gel using a gradient of heptane/ethyl acetate=100/0 to 60/20 as the eluent. There were obtained 325 mg (83% of theory) of the title compound as a white foam [MS (m/e): 538 (M+H)+].

reactant | [(RS)-1-(2-benzyloxy-ethyl)-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl]-carbamic acid tert-butyl ester | 301 mg | C(C)(C)(C)OC(NC1CNC2=C(N(C1=O)CCOCC1=CC=CC=C1)C=CC=C2)=O | C23H29N3O4
reactant | cesium carbonate | 477 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2,2,2-trifluoroethyl trifluoromethanesulphonate | 350 mg | FC(S(=O)(=O)OCC(F)(F)F)(F)F | C3H2F6O3S
solvent | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | (S)-5-(2-Benzyloxy-ethyl)-3-tert-butoxycarbonylamino-4-oxo-2,3,4,5-tetrahydro-benzo[b][1,4]diazepine-1-carboxylic acid 2,2,2-trifluoro-ethyl ester | FC(COC(=O)N1C2=C(N(C([C@H](C1)NC(=O)OC(C)(C)C)=O)CCOCC1=CC=CC=C1)C=CC=C2)(F)F | C26H30F3N3O6
